US06699904B2
To a solution of diisopropylamine (13.11 mmol, 1.8 mL) in anhydrous tetrahydrofuran (40 mL) cooled to −78° C. under a nitrogen atmosphere was added 2.5M n-BuLi in hexanes (13.11 mmol, 5.24 mL). The resulting solution was allowed to stir at −78° C. for 20 minutes, warmed to room temperature for 10 minutes, then cooled back to −78° C. for 10 minutes. The mixture was added to a solution of ethyl isobutyrate (13.11 mmol, 1.76 mL) dissolved in anhydrous tetrahydrofuran (20 mL) cooled to −78° C. The resulting solution was allowed to stir at −78° C. for 1 h. (4-Bromomethyl-phenyl)-acetic acid (1 g, 4.37 mmol) in anhydrous tetrahydrofuran (10 mL) was added to the solution dropwise. The solution was warmed to room temperature and was allowed to stir for 20 minutes. The reaction mixture was poured over a dilute HCl solution (1 N). The aqueous layer was isolated and extracted with diethyl ether (1×). The organic layers were combined, washed with 2N HCl (2×), brine (1×), dried over anhydrous sodium sulfate, and concentrated to a crude oil. The oil was chromatographed on silica gel (Merck silica gel 60, art#9385-3) eluting with 10% methanol/methylene chloride to give 3-(4-carboxymethyl-phenyl)-2,2-dimethyl-propionic acid ethyl ester as a white solid (0.97 g, 84%).

reactant | diisopropylamine | 13.11 mmol, 1.8 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 2.5M | [Li]CCCC
reactant | ethyl isobutyrate | 13.11 mmol, 1.76 mL | C(C(C)C)(=O)OCC | C6H12O2
reactant | (4-Bromomethyl-phenyl)-acetic acid | 4.37 mmol, 1 g | BrCC1=CC=C(C=C1)CC(=O)O | C9H9BrO2
reactant | HCl | 1 N | Cl | ClH
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-(4-carboxymethyl-phenyl)-2,2-dimethyl-propionic acid ethyl ester | 0.97 g, 84% | C(C)OC(C(CC1=CC=C(C=C1)CC(=O)O)(C)C)=O | C15H20O4
